US07521062B2
To a solution of 5-(3-chlorophenyl)furan-2-carbaldehyde (1.0 equiv.) in THF at 0° C. was added MeMgBr in ether (3.0 equiv.) and stirred for 45 min. The reaction was quenched with water, diluted with ether and filtered through Celite. The organic layer was separated and washed with brine, dried over MgSO4, and concentrated to give the 1-[5-(3-chlorophenyl)-2-furyl]ethan-1-ol.

reactant | 5-(3-chlorophenyl)furan-2-carbaldehyde | 1.0 equiv. | ClC=1C=C(C=CC1)C1=CC=C(O1)C=O | C11H7ClO2
reactant | MeMgBr | C[Mg+].[Br-]
reactant | ether | 3.0 equiv. | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 1-[5-(3-chlorophenyl)-2-furyl]ethan-1-ol | ClC=1C=C(C=CC1)C1=CC=C(O1)C(C)O | C12H11ClO2
